US07101917B2
To a −5° C. solution of diisopropylamine (0.143 ml, 1 mmol) in THF (1 ml) was added dropwise nBuLi (0.67 ml, 1.06 mmol, 1.6 M in hexane). After 20 minutes stirring at −5° C., a solution of 5H-dibenzo[a,d]cycloheptene-5-carbonitrile (prepared according to: Regnier G. J. et al. J. Med. Chem. 1992, 35, 2481–2496) (0.2 g, 0.9 mmol) in THF (1 ml) was added dropwise. After 15 minutes at −5° C., a solution of 4-bromobutyronitrile (0.1 ml, 1 mmol) in THF (1 ml) was added slowly. The reaction mixture was allowed to warm up slowly to room temperature, stirred overnight and quenched with water and ether. Aqueous phase was extracted with ether and the combined organic phases were washed with water, dried with Na2SO4 and concentrated in vacuo. The residue was chromatographed over silica gel (hexane-ethylacetate 9:1) to provide 5-(3-cyano-propyl)-5H-dibenzo(a,d]cycloheptene-5-carbonitrile (0.2 g, 76%) as a colorless oil, MS: m/e=284 (M+).

reactant | diisopropylamine | 1 mmol, 0.143 ml | C(C)(C)NC(C)C | C6H15N
reactant | nBuLi | 1.06 mmol, 1.6 M, 0.67 ml | [Li]CCCC
reactant | 5H-dibenzo[a,d]cycloheptene-5-carbonitrile | 0.9 mmol, 0.2 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C#N | C16H11N
reactant | 4-bromobutyronitrile | 1 mmol, 0.1 ml | BrCCCC#N | C4H6BrN
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5-(3-cyano-propyl)-5H-dibenzo(a,d]cycloheptene-5-carbonitrile | 0.2 g, 76% | C(#N)CCCC1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)C#N | C20H16N2
